US09238639B2
6-((2,4-Dichlorobenzyl)oxy)-N-(methylsulfonyl)-2,3-dihydro-1-benzofuran-3-carboxamide
To a mixture of 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-carboxylic acid (120 mg) in DMF (dry) (3.5 mL) were added methanesulfonamide (101 mg), EDCI (203 mg) and DMAP (130 mg). The mixture was stirred at room temperature overnight.

reactant | 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-carboxylic acid | 120 mg | ClC1=C(COC2=CC3=C(C(CO3)C(=O)O)C=C2)C=CC(=C1)Cl | C16H12Cl2O4
reactant | methanesulfonamide | 101 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDCI | 203 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 130 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-((2,4-Dichlorobenzyl)oxy)-N-(methylsulfonyl)-2,3-dihydro-1-benzofuran-3-carboxamide | ClC1=C(COC2=CC3=C(C(CO3)C(=O)NS(=O)(=O)C)C=C2)C=CC(=C1)Cl | C17H15Cl2NO5S
